2191-06-29 06:32:00 Physician Resident Progress Note
Chief Complaint: T11 burst  fracture, hypotension
   24 Hour Events:
   TTE with EF 55%, no pericardial effusion, 1+ AR and 1+ MR
   Decreased UOP early PM, given 500 ml bolus of LR
   A line placed, SBP ~ 90's
   Episode of irregular tachycardia (A fib vs SVT with variable
   conduction)
   Given 500ml bolus of LR
   Lytes checked early,  K = 3.2, Mg 1.1
 MULTI LUMEN - START [**2191-6-28**] 12:00 PM
 TRANSTHORACIC ECHO - At [**2191-6-28**] 02:00 PM
 ARTERIAL LINE - START [**2191-6-28**] 03:39 PM
 EKG - At [**2191-6-29**] 02:08 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2191-6-29**] 02:36 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-6-29**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 87 (74 - 115) bpm
   BP: 101/56(74) {85/48(65) - 102/57(74)} mmHg
   RR: 18 (14 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 10 (-1 - 13)mmHg
   Total In:
                                                                  5,743 mL
                                                                  1,350 mL
   PO:
                                                                    610 mL
                                                                    340 mL
   TF:
   IVF:
                                                                    903 mL
                                                                  1,010 mL
   Blood products:
   Total out:
                                                                  1,805 mL
                                                                  1,130 mL
   Urine:
                                                                  1,565 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,938 mL
                                                                    220 mL
   Respiratory support
   SpO2: 100%
   ABG: ///17/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   84 K/uL
   10.1 g/dL
   111 mg/dL
   1.1 mg/dL
   17 mEq/L
   3.2 mEq/L
   34 mg/dL
   112 mEq/L
   138 mEq/L
   29.5 %
   3.2 K/uL
        [image002.jpg]
                             [**2191-6-27**]  11:11 PM
                             [**2191-6-28**]  04:07 AM
                             [**2191-6-29**]  01:35 AM
   WBC
   3.4
   3.2
   Hct
   30.4
   29.5
   Plt
   86
   84
   Cr
   1.1
   1.1
   Glucose
   69
   77
   111
   Other labs: ALT / AST:28/58, Alk Phos / T Bili:93/2.1, Ca++:7.8 mg/dL,
   Mg++:1.1 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK) : Patient initially presented with
   hypotension, thought to be urosepsis in setting of grossly positive
   U/A. Urine culture is negative.  Neurogenic shock in the setting of
   recent orthopedic injury is also a possibility.  A line placed
   yesterday. Adrenal insufficiency unlikely given elevated cortisol
   level. She does have an elevated bilirubin; question possibility of
   acalculous cholecystitis.
   -          Continue Cipro x 7d
   -          Follow urine output and mental status closely; if
   maintaining appropriately hold off on IVFs
   -          RUQ U/S
   -          If blood pressures remain low and no source of hypotension
   identified, consider starting Midodrine
 THORACIC / LUMBAR / SACRAL FRACTURE (TLS WITH SPINAL CORD INJURY):
   Patient with recent fall resulting in T11 burst fracture.
   -          TLSO brace placement
   -          Possible surgical intervention once medically stable
   -          f/u ortho reccs
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Patient presented
   with Cr of 2.2 on admission. Decreased to 1.1 today. Likely pre-renal
   in setting of hypotension.
 PANCYTOPENIA: Patient noted to have pancytopenia on labs this
   morning. Per PCP, [**Name10 (NameIs) **] has no prior history of this.
   -          Hemolysis labs
   -          f/u heparin antibodies
   -          Consider hematology consult to consider bone marrow tap
 HYPERBILIRUBINEMIA: Patient presented with elevated bilirubin on
   admission. No abdominal complaints. Now coming down.
   -          Continue to trend daily
   -          RUQ U/S given hypotension
 DIABETES MELLITUS (DM), TYPE II: Patient
s blood sugars well
   controlled. Continue insulin sliding scale with FS QID.
 HYPERTENSION, BENIGN: Holding outpatient regimen given current
   hypptension. Restart once patient is hemodynamically stable for >24
   hours.
 DYSLIPIDEMIA (CHOLESTEROL, TRIGLYCERIDE, LIPID DISORDER): Patient on
   Gemfibrozil as outpatient; being held now. Consider restarting once
   stable.
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:  Blood sugars well controlled
   Lines:  PIV, R axillary central line, a-line
   Multi Lumen - [**2191-6-28**] 12:00 PM
   20 Gauge - [**2191-6-28**] 12:00 PM
   Arterial Line - [**2191-6-28**] 03:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-06-29 06:32:00 Physician Attending Progress Note
Chief Complaint: T11 burst  fracture, hypotension
   24 Hour Events:
   TTE with EF 55%, no pericardial effusion, 1+ AR and 1+ MR
   Decreased UOP early PM, given 500 ml bolus of LR
   A line placed, SBP ~ 90's
   Episode of irregular tachycardia (A fib vs SVT with variable
   conduction)
   Given 500ml bolus of LR
   Lytes checked early,  K = 3.2, Mg 1.1
 MULTI LUMEN - START [**2191-6-28**] 12:00 PM
 TRANSTHORACIC ECHO - At [**2191-6-28**] 02:00 PM
 ARTERIAL LINE - START [**2191-6-28**] 03:39 PM
 EKG - At [**2191-6-29**] 02:08 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2191-6-29**] 02:36 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-6-29**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 87 (74 - 115) bpm
   BP: 101/56(74) {85/48(65) - 102/57(74)} mmHg
   RR: 18 (14 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 10 (-1 - 13)mmHg
   Total In:
                                                                  5,743 mL
                                                                  1,350 mL
   PO:
                                                                    610 mL
                                                                    340 mL
   TF:
   IVF:
                                                                    903 mL
                                                                  1,010 mL
   Blood products:
   Total out:
                                                                  1,805 mL
                                                                  1,130 mL
   Urine:
                                                                  1,565 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,938 mL
                                                                    220 mL
   Respiratory support
   SpO2: 100%
   ABG: ///17/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   84 K/uL
   10.1 g/dL
   111 mg/dL
   1.1 mg/dL
   17 mEq/L
   3.2 mEq/L
   34 mg/dL
   112 mEq/L
   138 mEq/L
   29.5 %
   3.2 K/uL
        [image002.jpg]
                             [**2191-6-27**]  11:11 PM
                             [**2191-6-28**]  04:07 AM
                             [**2191-6-29**]  01:35 AM
   WBC
   3.4
   3.2
   Hct
   30.4
   29.5
   Plt
   86
   84
   Cr
   1.1
   1.1
   Glucose
   69
   77
   111
   Other labs: ALT / AST:28/58, Alk Phos / T Bili:93/2.1, Ca++:7.8 mg/dL,
   Mg++:1.1 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK) : Patient initially presented with
   hypotension, thought to be urosepsis in setting of grossly positive
   U/A. Urine culture is negative.  Neurogenic shock in the setting of
   recent orthopedic injury is also a possibility.  A line placed
   yesterday. Adrenal insufficiency unlikely given elevated cortisol
   level. She does have an elevated bilirubin; question possibility of
   acalculous cholecystitis.
   -          Continue Cipro x 7d
   -          Follow urine output and mental status closely; if
   maintaining appropriately hold off on IVFs
   -          RUQ U/S
   -          If blood pressures remain low and no source of hypotension
   identified, consider starting Midodrine
 THORACIC / LUMBAR / SACRAL FRACTURE (TLS WITH SPINAL CORD INJURY):
   Patient with recent fall resulting in T11 burst fracture.
   -          TLSO brace placement
   -          Possible surgical intervention once medically stable
   -          f/u ortho reccs
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Patient presented
   with Cr of 2.2 on admission. Decreased to 1.1 today. Likely pre-renal
   in setting of hypotension.
 PANCYTOPENIA: Patient noted to have pancytopenia on labs this
   morning. Per PCP, [**Name10 (NameIs) **] has no prior history of this.
   -          Hemolysis labs
   -          f/u heparin antibodies
   -          Consider hematology consult to consider bone marrow tap
 HYPERBILIRUBINEMIA: Patient presented with elevated bilirubin on
   admission. No abdominal complaints. Now coming down.
   -          Continue to trend daily
   -          RUQ U/S given hypotension
 DIABETES MELLITUS (DM), TYPE II: Patient
s blood sugars well
   controlled. Continue insulin sliding scale with FS QID.
 HYPERTENSION, BENIGN: Holding outpatient regimen given current
   hypptension. Restart once patient is hemodynamically stable for >24
   hours.
 DYSLIPIDEMIA (CHOLESTEROL, TRIGLYCERIDE, LIPID DISORDER): Patient on
   Gemfibrozil as outpatient; being held now. Consider restarting once
   stable.
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:  Blood sugars well controlled
   Lines:  PIV, R axillary central line, a-line
   Multi Lumen - [**2191-6-28**] 12:00 PM
   20 Gauge - [**2191-6-28**] 12:00 PM
   Arterial Line - [**2191-6-28**] 03:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: MICU - Patient is critically ill, total time 35 minutes

2191-06-30 06:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2191-6-29**] 01:49 PM: No acute cholecystitis but did
   note splenomegaly
   -Persistently hypotensive overnight, requiring 5 500cc LR boluses for
   dips into the 70s with mild drop off in UOP and CVP, overall remained
   with intact mental status
   -Went into a rapid rhythm several times overnight sinus vs. MAT vs. a
   flutter, given the setting of hypotension, bed-bound status, and lack
   of DVT ppx we did a stat CTA to r/o PE, which was negative.  She
   recieved mucomyst and bicarb around the study
   -Hapto/LDH wnl
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2191-6-30**] 02:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-6-29**] 08:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-6-30**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 76 (72 - 140) bpm
   BP: 99/57(73) {74/37(51) - 105/65(78)} mmHg
   RR: 20 (14 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 109 kg (admission): 90.1 kg
   Height: 60 Inch
    CVP: 16 (6 - 17)mmHg
   Total In:
                                                                  6,165 mL
                                                                  1,740 mL
   PO:
                                                                  1,300 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  4,865 mL
                                                                  1,540 mL
   Blood products:
   Total out:
                                                                  2,030 mL
                                                                    660 mL
   Urine:
                                                                  1,460 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,135 mL
                                                                  1,080 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   99 K/uL
   10.4 g/dL
   153 mg/dL
   1.0 mg/dL
   19 mEq/L
   3.6 mEq/L
   23 mg/dL
   104 mEq/L
   131 mEq/L
   30.1 %
   4.0 K/uL
        [image002.jpg]
                             [**2191-6-27**]  11:11 PM
                             [**2191-6-28**]  04:07 AM
                             [**2191-6-29**]  01:35 AM
                             [**2191-6-30**]  02:12 AM
   WBC
   3.4
   3.2
   4.0
   Hct
   30.4
   29.5
   30.1
   Plt
   86
   84
   99
   Cr
   1.1
   1.1
   1.0
   Glucose
   69
   77
   111
   153
   Other labs: ALT / AST:32/65, Alk Phos / T Bili:93/2.3, LDH:181 IU/L,
   Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:1.2 mg/dL
   Imaging: RUQ ultrasound:
   1. No evidence for cholecystitis or biliary obstruction.
   2. Splenomegaly. Clinical correlation recommended.
   CTA: Per discussion with radiologist: no PE
   Microbiology: Blood 8/4: NGTD
   Urine [**6-26**]: pending
   Assessment and Plan
 ATRIAL FLUTTER/FIBRILLATION:  EKG this morning consistent with atrial
   flutter/fibrillation with elevated HRs in 140
s.  Her BPs during this
   time was also in the low 90
s suggesting some hemodynamic instability.
   Cardiology was called and recommended loading patient with Amiodarone.
   -          Cardiology consult
   -          Amiodarone 150mg IV x1, then Amiodarone 1mg/min for 6 hours,
   Amiodarone 0.5mg/min; then transition to PO regimen.
   -          Consider beta-blocker for rate control once BP stabilizes
   -          No acute indications for anti-coagulation; will need to be
   discussed later
 HYPOTENSION (NOT SHOCK) : Patient initially presented with
   hypotension, thought to be urosepsis in setting of grossly positive
   U/A. Urine culture is negative.  She also had a RUQ U/S yesterday which
   was unrevealing. Neurogenic shock in the setting of recent orthopedic
   injury is also a possibility. Adrenal insufficiency unlikely given
   elevated cortisol level.  Given recent atrial flutter/fibrillation,
   this may be explaining her hypotension.
   -          d/c Cipro since she has completed 3d course
   -          Treatment of rhythm as above
   -          Follow urine output and mental status closely
 THORACIC / LUMBAR / SACRAL FRACTURE (TLS WITH SPINAL CORD INJURY):
   Patient with recent fall resulting in T11 burst fracture.  TLSO brace
   was placed yesterday.
   -          f/u ortho reccs
 PANCYTOPENIA: Patient noted to have pancytopenia on labs yesterday.
   Per PCP, [**Name10 (NameIs) **] has no prior history of this.  Hemolysis labs negative.
   Heparin dependent antibodies were  negative.
   -          Hematology consult today for bone marrow biopsy
 HYPERBILIRUBINEMIA: Patient presented with elevated bilirubin on
   admission. No abdominal complaints. Now stable at 2.3. RUQ U/S
   yesterday with no findings. No need to follow daily.
 DIABETES MELLITUS (DM), TYPE II: Patient
s blood sugars well
   controlled. Continue insulin sliding scale with FS QID.
 HYPERTENSION, BENIGN: Holding outpatient regimen given current
   hypotension.
 DYSLIPIDEMIA (CHOLESTEROL, TRIGLYCERIDE, LIPID DISORDER): Patient on
   Gemfibrozil as outpatient; being held now. Consider restarting once
   stable.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugars very well controlled.
   Lines:
   Multi Lumen - [**2191-6-28**] 12:00 PM
   Arterial Line - [**2191-6-28**] 03:39 PM
   20 Gauge - [**2191-6-30**] 12:42 AM
   Prophylaxis:
   DVT:  Pneumoboots
   Stress ulcer:  No PPI necessary
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Remain in MICU

2191-07-01 07:09:00 Physician Resident Progress Note
Chief Complaint: Hypotension
   Atrial fibrillation
   24 Hour Events:
 EKG - At [**2191-6-30**] 09:20 AM
   EKG taken prior & after carotid massage
 EKG - At [**2191-6-30**] 11:30 AM
   EKG taken as converted to NSr post amiodarone gtt
   - Cipro d/c
ed since she completed 3d course
   - Patient found to be in atrial fibrillation: Loaded with Amiodarone
   150mg IV x1, 1mg/min for 6 hours, 0.5 mg/min for 18 hours
   - Cardiology consult: Agree with Amiodarone infusion; transition to
   Amiodarone PO daily; Toprol 25mg daily when BP able to tolerate; start
   Coumadin when cleared by surgery; on discharge will need KOH monitor
   (continuous); f/u with cardiology as outpatient
- Hematology reccs: Peripheral blood smear demonstrates no evidence of a
myelophthisic or myelodysplastic process; presence of multiple target forms is s
uggestive of chronic liver disease especially in the setting of cholestatic [**Last Name (un) 4055**]
titis; pancytopenia and splenomegaly are most likely secondary to chronic hepati
tis due to NASH, alcoholic hepatitis or viral hepatitis. Recommended checking he
patitis serologies, vitamin B12 level, methylmalonic acid level, and homocystein
e level to rule out vitamin B12 deficiency.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2191-7-1**] 03:09 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Diltiazem - [**2191-6-30**] 09:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-7-1**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.3
   HR: 82 (69 - 152) bpm
   BP: 98/52(70) {82/41(57) - 141/105(118)} mmHg
   RR: 18 (14 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 109 kg (admission): 90.1 kg
   Height: 60 Inch
    CVP: 2 (1 - 22)mmHg
   Total In:
                                                                  3,155 mL
                                                                    358 mL
   PO:
                                                                    450 mL
   TF:
   IVF:
                                                                  2,705 mL
                                                                    358 mL
   Blood products:
   Total out:
                                                                  1,913 mL
                                                                    582 mL
   Urine:
                                                                  1,263 mL
                                                                    482 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,242 mL
                                                                   -224 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   Gen:  Awake and alert, NAD
   HEENT:  MMM
   Heart: RRR, no m,r,g
   Lungs:  CTAB anteriorly
   Abdomen: Soft, NT/ND, +BS
   Extremities: Mild [**11-24**]+ bilateral edema, well perfused
   Labs / Radiology
   85 K/uL
   9.9 g/dL
   98 mg/dL
   1.0 mg/dL
   22 mEq/L
   3.4 mEq/L
   18 mg/dL
   103 mEq/L
   132 mEq/L
   28.7 %
   4.0 K/uL
        [image002.jpg]
                             [**2191-6-27**]  11:11 PM
                             [**2191-6-28**]  04:07 AM
                             [**2191-6-29**]  01:35 AM
                             [**2191-6-30**]  02:12 AM
                             [**2191-6-30**]  03:59 PM
                             [**2191-7-1**]  03:11 AM
   WBC
   3.4
   3.2
   4.0
   4.0
   Hct
   30.4
   29.5
   30.1
   28.7
   Plt
   86
   84
   99
   85
   Cr
   1.1
   1.1
   1.0
   1.0
   Glucose
   69
   77
   111
   153
   130
   98
   Other labs: CK / CKMB / Troponin-T:93//, ALT / AST:32/65, Alk Phos / T
   Bili:93/2.3, LDH:181 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:1.2
   mg/dL
   Imaging: None
   Microbiology: [**6-26**] Urine culture: No growth
   [**6-27**] Blood culture: NGTD
   Assessment and Plan
 ATRIAL FIBRILLATION: Patient found to be in atrial fibrillation with
   increased heart rates yesterday morning. She was loaded with Amiodarone
   and she converted quickly to sinus rhythm. Appreciate cardiology
   consult recommendations.
   -          Complete Amiodarone 0.5mg/kg infusion; then transition to
   oral regimen
   -          Given low blood pressures will hold off on beta-blocker.
   -          No acute indications for anti-coagulation; will need to be
   discussed on the floor
 HYPOTENSION (NOT SHOCK) : Patient initially presented with
   hypotension, thought to be urosepsis in setting of grossly positive
   U/A. Urine culture is negative. ? TB given sterile pyruria.  She also
   had a RUQ U/S yesterday which was unrevealing. Neurogenic shock in the
   setting of recent orthopedic injury is also a possibility. Adrenal
   insufficiency unlikely given elevated cortisol level.  [**Month (only) 60**] be explained
   by atrial fibrillation.
   -          Treatment of rhythm as above
   -          Follow urine output and mental status closely
   -          f/u PPD in 24 hours
 THORACIC / LUMBAR / SACRAL FRACTURE (TLS WITH SPINAL CORD INJURY):
   Patient with recent fall resulting in T11 burst fracture.  TLSO brace
   was placed yesterday. Per ortho, she is not a surgical candidate at
   this time.
   -          f/u ortho reccs
 PANCYTOPENIA: Patient noted to have pancytopenia on labs yesterday.
   Per PCP, [**Name10 (NameIs) **] has no prior history of this.  Hemolysis labs negative.
   Heparin dependent antibodies were negative. Hematology was consulted
   yesterday and felt that given her cholestatic picture, she may have an
   underlying chronic hepatitis.
   -          f/u hepatitis serologies
   -          Hematology consult today for bone marrow biopsy
   -          f/u  MMA, vitamin B12 level, and homocysteine
 HYPERBILIRUBINEMIA: Patient presented with elevated bilirubin on
   admission. No abdominal complaints. Now stable at 2.3. RUQ U/S with no
   findings. No need to follow daily.
 DIABETES MELLITUS (DM), TYPE II: Patient
s blood sugars well
   controlled. Continue insulin sliding scale with FS QID.
 HYPERTENSION, BENIGN: Holding outpatient regimen given current
   hypotension.
 DYSLIPIDEMIA (CHOLESTEROL, TRIGLYCERIDE, LIPID DISORDER): Patient on
   Gemfibrozil as outpatient; being held now. Consider restarting once
   stable.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugars well controlled
   Lines:
   Multi Lumen - [**2191-6-28**] 12:00 PM
   Arterial Line - [**2191-6-28**] 03:39 PM
   20 Gauge - [**2191-6-30**] 12:42 AM
   Prophylaxis:
   DVT:  Pneumoboots
   Stress ulcer:  N/A
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  Call out to the floor
   ------ Protected Section ------
   Amyloid is also on the differential given new atrial fibrillation and
   pancytopenia. Will ask cytology fellow to come by and biopsy fat pad.
   Also, prior to d/c to floor will need to place 1 additional PIV and
   then central line and a-line can be pulled.
   ------ Protected Section Addendum Entered By:[**Name (NI) 4061**] [**Name8 (MD) 4047**], MD
   on:[**2191-7-1**] 10:36 ------